US07592363B2
1-[4-({3-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}METHYL)PHENYL]CYCLOPENTANECARBOXYLIC ACID
This compound was prepared similarly to that of Example 525 by treating 3-(2-benzyl-7-trifluoromethyl-2H-indazole-3-yl)-phenol (20 mg, 1 eq) with 1-(4-bromomethyl-phenyl)-cyclopentanecarboxylic acid methyl ester (48 mg, 3 eq) and potassium carbonate (37 mg, 5 eq) in acetone (1.5 mL). The latter reagent was obtained by heating 1-p-tolyl-cyclopentanecarboxylic acid in methanol and a catalytic amount of sulphuric acid. Subsequent α-bromination was accomplished by refluxing the ester (100 mg, 1 eq) with NBS (82 mg, 1 eq) and benzoyl peroxide (5 mg, 3%) in carbon tetrachloride (2 mL) for one hour. The reaction mixture was cooled, water was added and product extracted with dichloromethane. The residue was purified by flash chromatography (ethyl acetate/n-heptane, 1:9, as an eluent). Then the resulting compound was hydrolyzed with aq LiOH (1M, 40 eq)/THF 1:1 and purified by preparative HPLC, affording the desired product in 48% yleld.

reactant | 3-(2-benzyl-7-trifluoromethyl-2H-indazole-3-yl)-phenol | 20 mg, 1 eq | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C=1C=C(C=CC1)O)C(F)(F)F | C21H15F3N2O
reactant | 1-(4-bromomethyl-phenyl)-cyclopentanecarboxylic acid methyl ester | 48 mg, 3 eq | COC(=O)C1(CCCC1)C1=CC=C(C=C1)CBr | C14H17BrO2
reactant | potassium carbonate | 37 mg, 5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 1-p-tolyl-cyclopentanecarboxylic acid | C1(=CC=C(C=C1)C1(CCCC1)C(=O)O)C | C13H16O2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | NBS | 82 mg, 1 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 5 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | LiOH | 1M, 40 eq | [Li+].[OH-]
solvent | acetone | 1.5 mL | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
solvent | carbon tetrachloride | 2 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-[4-({3-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}METHYL)PHENYL]CYCLOPENTANECARBOXYLIC ACID | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C=1C=C(OCC2=CC=C(C=C2)C2(CCCC2)C(=O)O)C=CC1)C(F)(F)F | C34H29F3N2O3
